US05254755
As another example, 2-trifluoromethyl-1,1,1-trifluoro-2-pentanol may be prepared by fluorinating commercially available 2-pentenal to form 1,1,2,3-tetrafluoropentane which may then be dehydrogenated to form 1,1-difluoro-1-pentene. CF3 may then be reacted with the 1,1-difluoro-1-pentene to form 2-trifluoromethyl-1,1,1-trifluoropentane which may then be dehydrogenated to form 2-trifluoromethyl-1,1,1-trifluoro-2-pentene. The 2-trifluoromethyl-1,1,1-trifluoro-2-pentene may then be reacted with water to form 2-trifluoromethyl-1,1,1-trifluoro-2-pentanol.

reactant | 2-trifluoromethyl-1,1,1-trifluoro-2-pentene | FC(C(C(F)(F)F)=CCC)(F)F | C6H6F6
reactant | water | O | H2O
product | 2-trifluoromethyl-1,1,1-trifluoro-2-pentanol | FC(C(C(F)(F)F)(CCC)O)(F)F | C6H8F6O
